US07504401B2
To 0.500 g (2.91 mmol) 2-chloro-6-methyl-isonicotinic acid in 5.0 mL of anhydrous methylene chloride and 0.5 mL of anhydrous DMF was added 0.47 g (3.5 mmol) 1-hydroxybenzotriazole hydrate. The reaction mixture was stirred for 20 minutes at 0° C. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.67 g, 3.5 mmol) was added to the reaction mixture. Stirring was continued for 1 hour allowing the reaction mixture to slowly warm up to room temperature. The reaction mixture was re-cooled to 0° C. and 0.750 g (5.8 mmol) of diisopropylethylamine and 0.340 g (3.5 mmol) of O,N-dimethyl-hydroxylamine were added. The reaction mixture was allowed to warm to room temperature and was stirred overnight. The reaction mixture was diluted with water and extracted with 50 mL of methylene chloride. The organic phase was washed with water, and brine, dried over anhydrous sodium sulfate, filtered and concentrated. The crude product was chromatographed on silica gel using 5:1 hexane:ethyl acetate to give 360 mg of the 2-chloro-N-methoxy-6,N-dimethyl-isonicotinamide.

reactant | 2-chloro-6-methyl-isonicotinic acid | 2.91 mmol, 0.500 g | ClC=1C=C(C(=O)O)C=C(N1)C | C7H6ClNO2
reactant | 1-hydroxybenzotriazole hydrate | 3.5 mmol, 0.47 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.5 mmol, 0.67 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 5.8 mmol, 0.750 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O,N-dimethyl-hydroxylamine | 3.5 mmol, 0.340 g | CONC | C2H7NO
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-chloro-N-methoxy-6,N-dimethyl-isonicotinamide | 360 mg | ClC=1C=C(C(=O)N(C)OC)C=C(N1)C | C9H11ClN2O2
